US07989460B2
tert-Butyl (3R,4S)-3,4-dihydroxypyrrolidine-1-carboxylate (34.6 g; 0.17 mol) was dissolved in DMF (400 mL) under argon and cooled down to 0-5° C. Sodium hydride (15 g; 0.375 mol) was added portionwise. The reaction mixture formed a foam which was difficult to stir. After 1 hour at 5° C., dibromomethane (15.6 mL; 0.22 mol) was added. After an additional 30 minutes at the same temperature, the reaction mixture was left to rise to ambient temperature. The temperature rose to 35° C. and was stirred overnight. The DMF was evaporated off and the residue partitioned between ethyl acetate and water. The water phase was extracted with ethyl acetate, the organic phases were combined and washed with water, brine, dried over magnesium sulphate and evaporated. The residue was dissolved in a minimum of dichloromethane and purified by flash chromatography using ethyl acetate/petroleum ether (3/7). Evaporation of the solvent gave tert-butyl tetrahydro-5H-[1,3]dioxolo[4,5-c]pyrrole-5-carboxylate (19.77 g; 54%) as a colorless oil.

reactant | tert-Butyl (3R,4S)-3,4-dihydroxypyrrolidine-1-carboxylate | 0.17 mol, 34.6 g | O[C@@H]1CN(C[C@@H]1O)C(=O)OC(C)(C)C | C9H17NO4
reactant | Sodium hydride | 0.375 mol, 15 g | [H-].[Na+]
reactant | dibromomethane | 0.22 mol, 15.6 mL | BrCBr | CH2Br2
solvent | DMF | 400 mL | CN(C)C=O | C3H7NO
product | tert-butyl tetrahydro-5H-[1,3]dioxolo[4,5-c]pyrrole-5-carboxylate | 19.77 g, 54% | O1COC2C1CN(C2)C(=O)OC(C)(C)C | C10H17NO4
